US03978121
5-(3-Isopropylaminopropyl)-5H-dibenzo[a,d]cycloheptene
A suspension of platinum oxide (20 mg.) in 2 ml. of absolute alcohol is pre-reduced by shaking with hydrogen in a Hershberg apparatus. A solution of 5-(3-aminopropyl)-5H-dibenzo[a,d]cycloheptene (0.75 g., 0.003 mole) and acetone (0.5 ml.) in 5 ml. of absolute alcohol is added and the mixture shaken with hydrogen in a Hershberg apparatus until the hydrogen uptake is complete. Catalyst is filtered through a mat of diatomaceous earth and washed with absolute alcohol. The combined filtrate and washings are evaporated to dryness on the steam-bath under reduced pressure. The residual oily base is dissolved in absolute alcohol and treated with a solution of dry hydrogen chloride in absolute alcohol. The white crystalline 5-(3-isopropylaminopropyl)-5H-dibenzo[a,d]cycloheptene hydrochloride is precipitated by addition of absolute ether in a yield of 0.80 g. (92%), m.p. 234°-236°C. The melting point was unchanged by a further recrystallization from a mixture of isopropyl alcohol and absolute ether.

reactant | hydrogen | [H][H] | H2
reactant | 5-(3-aminopropyl)-5H-dibenzo[a,d]cycloheptene | 0.003 mole, 0.75 g | NCCCC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C18H19N
reactant | acetone | 0.5 ml | CC(=O)C | C3H6O
catalyst | platinum oxide | 20 mg | [Pt]=O
product | 5-(3-Isopropylaminopropyl)-5H-dibenzo[a,d]cycloheptene | C(C)(C)NCCCC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C21H25N
